US04824468
2-(m-Trifluoromethylphenyl)-3-butyroyl-5-ethyl-1,3-oxazolidine
Four and seven-tenths grams of 2-(m-trifluoromethylphenyl)-5-ethyl-1,3-oxazolidine was combined with 1.6 g of pyridine in 25 ml of methylene chloride and 2.0 g of butyroyl chloride was added dropwise. The mixture was allowed to stir overnight. The mixture was washed with 50 ml of 5% NaOH and 200 ml of water, dried and stripped on the rotary evaporator. Yield was 6.3 g, nD30 1.5015. The structure was confirmed by NMR and infrared spectroscopy.

reactant | 2-(m-trifluoromethylphenyl)-5-ethyl-1,3-oxazolidine | FC(C=1C=C(C=CC1)C1OC(CN1)CC)(F)F | C12H14F3NO
reactant | pyridine | 1.6 g | N1=CC=CC=C1 | C5H5N
reactant | butyroyl chloride | 2.0 g | C(CCC)(=O)Cl | C4H7ClO
solvent | methylene chloride | 25 ml | C(Cl)Cl | CH2Cl2
product | 2-(m-Trifluoromethylphenyl)-3-butyroyl-5-ethyl-1,3-oxazolidine | FC(C=1C=C(C=CC1)C1OC(CN1C(CCC)=O)CC)(F)F | C16H20F3NO2
